US07655701B2
Cyclohexylidene-o-tolyl-acetonitrile
The mixture of cyclohexanone (44.7 g, 0.46 mol) and 2-methyl benzylcyanide (41.9 g, 0.32 mol) is treated with KOH (3.58 g, 0064 mol) and the resulting mixture is heated to 120° C. (oilbath temperature 140° C.) for 2 h with concomitant distillation of H2O as an azeotrope with cyclohexanone. The temperature is raised to 130° C. (oilbath temperature 150° C.) for 30 min, before cooling to 60° C. and dilution of the viscous mixture with toluene (50 ml). Standard aqueous workup is effected with toluene, H2O, sat. aq. Na2CO3-solution and brine. The organic layer is dried over MgSO4 and the volatiles removed in vacuo. The crude product (67 g), which crystallizes upon standing, is subjected to a short path distillation at 0.05 mbar/120-127° C. to yield 42.6 g of crystalline product which is recrystallized three times from hexane. From this, 33.6 g of white crystalline product is obtained (50% yield), m.p. 65.2-66.0° C.

reactant | cyclohexanone | 0.46 mol, 44.7 g | C1(CCCCC1)=O | C6H10O
reactant | 2-methyl benzylcyanide | 0.32 mol, 41.9 g | CC1=C(CC#N)C=CC=C1 | C9H9N
reactant | KOH | 3.58 g | [OH-].[K+]
product | Cyclohexylidene-o-tolyl-acetonitrile | 42.6 g | C1(CCCCC1)=C(C#N)C1=C(C=CC=C1)C | C15H17N
